US07582660B2
The starting materials are converted in a condensation reaction with the aid of metallic sodium in an alcohol, for example ethanol, into 2-cyano-2-(4-fluorophenyl)-1-(4-pyridyl)ethanone (IIIa). The cyano group is then removed by hydrolysis, for example with hydrobromic acid, and decarboxylation, giving 2-(4-fluorophenyl)-1-(4-pyridyl)ethanone (IVa). In the next step, IVa is converted by treatment with ammonium chloride/sodium acetate in an alcoholic solvent, such as methanol, into the oxime (Va). By reaction with p-toluenesulfonyl chloride in pyridine, the latter is converted into the tosylate (VIa). From the tosylate, the thione compound (IIa) is obtained by treatment with sodium ethoxide and reaction of the azirene intermediate formed with potassium thiocyanate.

reactant | sodium | [Na] | Na
reactant | 2-cyano-2-(4-fluorophenyl)-1-(4-pyridyl)ethanone | C(#N)C(C(=O)C1=CC=NC=C1)C1=CC=C(C=C1)F | C14H9FN2O
reactant | hydrobromic acid | Br | BrH
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-fluorophenyl)-1-(4-pyridyl)ethanone | FC1=CC=C(C=C1)CC(=O)C1=CC=NC=C1 | C13H10FNO
